US07173129B2
Ex-51A: A solution (4-acetylbenzenesulfonylamino)acetic acid (Ex-26A, 238 mg, 1.01 mmol) in DMF (4.4 mL) and MeOH (1.9 mL) was treated with lithium methoxide (153 mg, 4.04 mmol), followed by the addition of 5-(2-amino-phenylethynyl)-2,4-dimethoxybenzaldehyde (Ex-35C, 300 mg, 1.07 mmol). The reaction mixture was stirred at room temperature for 23 h under nitrogen. It was quenched with water (10 mL) and extracted with ethyl acetate (25 mL). The aqueous phase was acidified with 6N HCl to pH3 and was extracted with (3:1) ethyl acetate/THF (5×25 mL). The organic phase was brined, dried over sodium sulfate, and concentrated to a yellow oil. The crude material was purified by column chromatography (0–7.5% MeOH in dichloromethane) to give (4-{3E-[5-(2-amino-phenylethynyl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonylamino)acetic acid (188 mg, 36%) as an orange solid. 1H-NMR (300 MHz, DMSO-d6) 8.23 (d, 2H, J=8.7), 8.19 (s, 1H), 7.99 (d, 1H, J=15.9 Hz), 7.92 (d, 2H, J=7.80 Hz), 7.82 (d, 1H, J=16.5 Hz), 7.16 (d, 1H, J=6.6 Hz), 7.05 (t, 1H, J=8.1 Hz), 6.76 (s, 1H), 6.71 (d, 1H, J=7.8 Hz), 6.52 (t, 1H, J=7.2 Hz), 5.72 (s, 1H), 5.45 (br s, 1H), 3.96 (s, 3H), 3.95 (s, 3H), 3.41 (m, 2H).

reactant | (4-acetylbenzenesulfonylamino)acetic acid | 1.01 mmol, 238 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C10H11NO5S
reactant | lithium methoxide | 4.04 mmol, 153 mg | C[O-].[Li+]
reactant | 5-(2-amino-phenylethynyl)-2,4-dimethoxybenzaldehyde | 1.07 mmol, 300 mg | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1.9 mL | CO | CH4O
product | (4-{3E-[5-(2-amino-phenylethynyl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonylamino)acetic acid | 188 mg, 36% | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O)OC)OC | C27H24N2O7S
